US04723006
A mixture of 17.0 parts of 2-amino-4-chloromethyl-6-methoxypyrimidine, 59.5 parts of caesium fluoride and 130 parts of dry dimethylformamide was stirred under reflux for 2 hours. The mixture was cooled and evaporated in vacuo. The residue was taken up in ethyl acetate and the solution was washed four times with water. The organic phase was dried with anhydrous magnesium sulphate, stirred with decolourising charcoal, filtered and evaporated. The crude product was purified by chromatography on silica, eluted with ethyl acetate to give 2-amino-4-fluoromethyl-6-methoxypyrimidine m.p. 119°-121° C.

reactant | 2-amino-4-chloromethyl-6-methoxypyrimidine | NC1=NC(=CC(=N1)CCl)OC | C6H8ClN3O
reactant | caesium fluoride | [F-].[Cs+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-amino-4-fluoromethyl-6-methoxypyrimidine | NC1=NC(=CC(=N1)CF)OC | C6H8FN3O
